US07468443B2
To 4.60 g of 2-(1-benzothiophen-5-yl)-1-ethanol were added 29 mg of potassium hydroxide, 83 mg of tetra-n-butylammonium bromide and 5.67 mL of tert-butyl acrylate, and the resulting mixture was stirred at 45 to 50° C. for 2 hours. After the reaction mixture was cooled, water and toluene were added thereto and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; hexane ethyl acetate=5:1) to obtain 7.70 g of tert-butyl 3-[2-(1-benzothiophen-5-yl)ethoxy]propionate as a colorless oil.

reactant | 2-(1-benzothiophen-5-yl)-1-ethanol | 4.60 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
reactant | potassium hydroxide | 29 mg | [OH-].[K+]
reactant | tert-butyl acrylate | 5.67 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
catalyst | tetra-n-butylammonium bromide | 83 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | tert-butyl 3-[2-(1-benzothiophen-5-yl)ethoxy]propionate | 7.70 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)OC(C)(C)C | C17H22O3S
